US07619101B2
Preparation of (R)-4-bromo-3-fluoromethyl-butyric acid ethyl ester
A 250 mL round bottom flask equipped with a condenser was charged with 3.22 g (27.3 mmol) (S)-4-fluoromethyl-dihydro-furan-2-one. 16 mL (91 mmol) hydrobromic acid (33% in acetic acid) was added in one portion and the mixture was stirred at 60° C. for 45 minutes. A second portion of 16 mL (91 mmol) hydrobromic acid (33% in acetic acid) was added and stirring was continued at the same temperature for an additional 45 minutes, whereupon 96 mL ethanol were added. The resulting mixture was stirred at 60° C. for 65 minutes. The solvent was evaporated under reduced pressure (90 mbar) and the residue was dissolved in 300 mL toluene. The organic solution was washed with 300 mL saturated aqueous NaHCO3 and 300 mL water. Following drying over Na2SO4, filtration and evaporation of the solvent, the crude mixture was distilled under reduced pressure (82° C./1 mbar) to give 3.96 g product (64%; assay 98.9%).

reactant | (S)-4-fluoromethyl-dihydro-furan-2-one | 27.3 mmol, 3.22 g | FC[C@H]1CC(OC1)=O | C5H7FO2
reactant | hydrobromic acid | 91 mmol, 16 mL | Br | BrH
reactant | hydrobromic acid | 91 mmol, 16 mL | Br | BrH
reactant | ethanol | 96 mL | C(C)O | C2H6O
product | (R)-4-bromo-3-fluoromethyl-butyric acid ethyl ester | 3.96 g | C(C)OC(C[C@@H](CBr)CF)=O | C7H12BrFO2
